US04861799
[I] A solution prepared by dissolving 0.75 g of 4-amino-4'-bromobiphenyl in 10 ml of pyridine, was cooled with ice, and 1.0 g of acetyl chloride was dropwise added thereto. The mixture was stirred over a period of 30 minutes. After the completion of the reaction, the reaction solution was extracted with ethyl acetate and water. The organic layer was washed with dilute hydrochloric acid and further with a saturated sodium chloride aqueous solution, and then dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure to obtain 0.8 g of N-(4'-bromo-4-biphenylyl)acetamide as colorless crystals. [II] A solution prepared by dissolving 0.80 g of N-(4'-bromo-4-biphenylyl)acetamide obtained in step [I] in 10 ml of dimethylformamide, was dropwise added at a temperature of from 15° to 20° C. to 10 ml of a dimethylsulfoxide solution in which 0.17 g of sodium hydride (60% nujol mixture) was suspended. After the dropwise addition, the mixture was stirred at room temperature for 30 minutes, and then 0.78 g of methyl iodide was dropwise added thereto at a temperature of from 15° to 20° C. Then, the mixture was stirred for 3 hours at room temperature.

reactant | 4-amino-4'-bromobiphenyl | 0.75 g | NC1=CC=C(C=C1)C1=CC=C(C=C1)Br | C12H10BrN
reactant | acetyl chloride | 1.0 g | C(C)(=O)Cl | C2H3ClO
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | N-(4'-bromo-4-biphenylyl)acetamide | 0.8 g | BrC1=CC=C(C=C1)C1=CC=C(C=C1)NC(C)=O | C14H12BrNO
